US08030354B2
5,5-Dimethylcyclopent-1-enyl trifluoromethanesulfonate (A.2).
To a solution of 2,2-dimethylcyclopentanone A.1 (available from ChemSampCo) (3.00 g, 26.75 mmol) in THF (100 mL), was slowly added LDA (14.7 mL, 2.0 M, in heptane) at −78° C. The resulting mixture was stirred at −78° C. for 1 hour. A solution of N-phenyltriflimide (10.00 g, 28.00 mmol) was added to the mixture at −78° C., and stirring was continued at 0° C. for 2 hours and then at room temperature overnight. The reaction mixture was extracted with hexane (80×2 mL). The organic layer was washed with saturated Na2CO3 (30 mL), brine (20 mL), and dried with MgSO4. The solvent was removed, and the crude product was purified by CombiFlash (eluant was EtOAc and hexane) to give A.2. 1H NMR (CDCl3) δ ppm 1.16 (s, 6H), 1.86 (t, J=7.1 Hz, 2H), 2.36 (t, J=7.1 Hz, 2H), 5.56 (m, 1H).

reactant | 2,2-dimethylcyclopentanone | CC1(C(CCC1)=O)C | C7H12O
reactant | LDA | 2.0 M, 14.7 mL | [Li+].CC(C)[N-]C(C)C
reactant | N-phenyltriflimide | 28.00 mmol, 10.00 g | C1(=CC=CC=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 5,5-Dimethylcyclopent-1-enyl trifluoromethanesulfonate | FC(S(=O)(=O)OC1=CCCC1(C)C)(F)F | C8H11F3O3S
